US04186003
Poly(acetaldehyde) is prepared by polymerizing acetaldehyde monomer cationically at -100° C. in liquid ethylene using BF3 - etherate as an initiater. The polymer is reacted immediately with acetic anhydride in the presence of pyridene to convert the hemi-acetal end groups to acetate end groups. The end-capped polymer is precipitated three times in distilled water, redissolved in benzene, dryed over anhydrous magnesium sulphate and then freeze dried. The polymer molecular weight Mw=500,000 is subsequently stored in amber bottles at -20° C. This polymer along with polystyrene having an Mw=39,000, Mn=7,000, and MWD-5.57 and Tg of 68°-70° C. is dissolved in a chlorobenzene solvent and this solvent-solute system is directed through a 23-26 gauge hypodermic needle at variable feed rates upon an air driven rotating desk whose velocity is controlled by air pressure. The solute-solvent system is instantly converted into an aerosol and upon solvent evaporation solid spherical particles result. A toner material including 10.35 grams of polystyrene, 1.15 grams of polyacetaldehyde produced above and benzophenone at 0.18 grams is spray-dried from 250 millileters of chlorobenzene at 40° C. This mixture is redissolved in chlorobenzene with 0.14 black colorant thoroughly dispersed and then spray dried to form toner. This material is loaded at 1% by weight onto a conventional carrier and ball milled at room temperature for 4 hours. The toner material is then applied to an electrostatic latent image to form a visible toner image. The toner image is pressure fixed at 400 pli at a roller speed 10" per sec. followed by illumination at 200 J from a Xenon lamp flash at a distance of 2" followed by a 200 J flash (Stroboflash 4) at 1". Acceptable but not high quality fix is obtained.

reactant | acetaldehyde | C(C)=O | C2H4O
reactant | ethylene | C=C | C2H4
reactant | BF3 | B(F)(F)F | BF3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridene | C1=CC=C(C=C1)N=NC2=C(N=C(C=C2)N)N.Cl
reactant | acetate | C(C)(=O)[O-]
product | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
